US07332508B2
1-{4-[3-(1-Cyclopropylpiperidin-4-yl)[1,2,4]oxadiazol-5-yl]phenyl}ethanone
The title compound was prepared by a similar procedure to that described in Example 35a, starting from 1-cyclopropyl-N-hydroxypiperidine-4-carboxamidine and 4-acetylbenzoyl chloride. 1H NMR (400 MHz, CDCl3) δ 0.42-0.52 (m, 4H), 1.62-1.68 (m, 1H), 1.86-1.96 (m, 2H), 2.04-2.12 (m, 2H), 2.33-2.39 (m, 2H), 2.67 (s, 3H), 2.85-2.93 (m, 1H), 3.09-3.17 (m, 2H), 8.07 (d, 2H), 8.21 (d, 2H). HPLC: Rt=8.42 min.

reactant | 1-cyclopropyl-N-hydroxypiperidine-4-carboxamidine | C1(CC1)N1CCC(CC1)C(=N)NO | C9H17N3O
reactant | 4-acetylbenzoyl chloride | C(C)(=O)C1=CC=C(C(=O)Cl)C=C1 | C9H7ClO2
product | 1-{4-[3-(1-Cyclopropylpiperidin-4-yl)[1,2,4]oxadiazol-5-yl]phenyl}ethanone | C1(CC1)N1CCC(CC1)C1=NOC(=N1)C1=CC=C(C=C1)C(C)=O | C18H21N3O2
